US05973189
10 g (43.6 mmol) of N-carboxymethylene-4-chloro-anthranilic acid are dissolved in 40 ml of benzyl alcohol, 444 mg (4.3 mmol) of H2SO4 are added and the mixture is stirred at 110° C. for 2 hours. It is cooled to room temperature and the product which has precipitated out is filtered off with suction, washed with benzyl alcohol and dried. 7.3 g (22.9 mmol; 53% of pale yellow crystalline N-carbobenzoxymethylene-4-chloro-anthranilic acid are obtained.

reactant | N-carboxymethylene-4-chloro-anthranilic acid | 43.6 mmol, 10 g | C(=O)(O)C=NC=1C(C(=O)O)=CC=C(C1)Cl | C9H6ClNO4
reactant | H2SO4 | 4.3 mmol, 444 mg | OS(=O)(=O)O | H2O4S
solvent | benzyl alcohol | 40 ml | C(C1=CC=CC=C1)O | C7H8O
product | N-carbobenzoxymethylene-4-chloro-anthranilic acid | 53% | C(=O)(OCC1=CC=CC=C1)C=NC=1C(C(=O)O)=CC=C(C1)Cl | C16H12ClNO4
